US09023858B2
C) 6-[bis(2,4-dimethoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrimidin-4(1H)-one
To a solution of 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene (3.96 g) in N,N-dimethylformamide (120 mL) was added sodium hydride (60% in oil, 0.68 g) under ice-cooling. The reaction mixture was stirred for 5 min under ice-cooling, ethyl (2E)-3-amino-3-[bis(2,4-dimethoxybenzyl)amino]prop-2-enoate (7.3 g) was added thereto, and the mixture was stirred for 30 min under ice-cooling. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethanol (120 mL), sodium ethoxide (20% ethanol solution, 14.5 mL) was added thereto, and the mixture was stirred for 1 hr. To the reaction mixture was added 1M hydrochloric acid, and the precipitated solid was collected by filtration to give the title compound (2.8 g).

reactant | 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene | 3.96 g | N(=C=S)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NOS
reactant | sodium hydride | 0.68 g | [H-].[Na+]
reactant | ethyl (2E)-3-amino-3-[bis(2,4-dimethoxybenzyl)amino]prop-2-enoate | 7.3 g | N\C(=C/C(=O)OCC)\N(CC1=C(C=C(C=C1)OC)OC)CC1=C(C=C(C=C1)OC)OC | C23H30N2O6
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 6-[bis(2,4-dimethoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrimidin-4(1H)-one | 2.8 g | COC1=C(CN(C2=CC(N(C(N2)=S)C2=CC=C(C=C2)OCC(F)(F)F)=O)CC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C30H30F3N3O6S
